US08193228B2
Methylmagnesium chloride (3 M in toluene/tetrahydrofuran) (2.54 mL, 7.6 mmol) was added to a 0° C. solution of 4-bromo-3-fluoro-N-methoxy-N-methylbenzamide (500 mg, 1.9 mmol) in tetrahydrofuran (10 mL). After stirring at 0° C. for 30 min, the reaction mixture was cooled to −78° C. and n-butyllithium (2.6 mL, 4.2 mmol) was added. After stirring at −78° C. for 2 h, triisopropylborate (1.5 mL, 6.7 mmol) was added and the reaction allowed to warm slowly to ambient temperature over 3 h. 1 M hydrochloric acid (5 mL) was added and the reaction stirred for 10 min. The reaction mixture was concentrated in vacuo to remove tetrahydrofuran, saturated with sodium chloride and extracted with diethyl ether. Combined ethereal extracts were extracted with 0.5 N aqueous sodium hydroxide (6×5 mL). Combined extracts were acidified, saturated with sodium chloride and reextracted with ethyl acetate. The combined extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo to afford (4-acetyl-2-fluorophenyl)boronic acid which was used in the subsequent step without further purification.

reactant | Methylmagnesium chloride | 7.6 mmol, 3 M, 2.54 mL | C[Mg]Cl
reactant | 4-bromo-3-fluoro-N-methoxy-N-methylbenzamide | 1.9 mmol, 500 mg | BrC1=C(C=C(C(=O)N(C)OC)C=C1)F | C9H9BrFNO2
reactant | n-butyllithium | 4.2 mmol, 2.6 mL | C(CCC)[Li]
reactant | triisopropylborate | 6.7 mmol, 1.5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1 M, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (4-acetyl-2-fluorophenyl)boronic acid | C(C)(=O)C1=CC(=C(C=C1)B(O)O)F | C8H8BFO3
